US07425634B2
(44a) (2-(hydroxymethyl)-1,3-dioxan-2-yl)methyl benzoate
A mixture of the mixture (0.5 g) containing 3-hydroxy-2-oxopropyl benzoate, 1,3-propanediol (0.932 ml, 12.9 mmol), triethyl orthoformate (0.428 ml, 2.58 mmol), and p-toluenesulfonic acid monohydrate (44.5 mg, 0.234 mmol) was stirred at room temperature for 4 days. Another mixture consisting of the mixture (4 g) containing 3-hydroxy-2-oxopropyl benzoate, 1,3-propanediol (7.46 ml, 103 mmol), triethyl orthoformate (3.42 ml, 20.6 mmol), and p-toluenesulfonic acid monohydrate (356 mg, 1.87 mmol) was stirred at 40° C. overnight. Two reaction mixtures were combined, water and ethyl acetate were added, and the organic layer was taken out. The organic layer was dried over magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure. The residue was dissolved in n-heptane/ethyl acetate (2/1) and toluene and subjected to silica gel column chromatography (elution solvent: n-heptane/ethyl acetate=3/2) to obtain the title compound (4.2 g).

reactant | 3-hydroxy-2-oxopropyl benzoate | C(C1=CC=CC=C1)(=O)OCC(CO)=O | C10H10O4
reactant | 1,3-propanediol | 12.9 mmol, 0.932 ml | C(CCO)O | C3H8O2
reactant | triethyl orthoformate | 2.58 mmol, 0.428 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | 1,3-propanediol | 103 mmol, 7.46 ml | C(CCO)O | C3H8O2
reactant | triethyl orthoformate | 20.6 mmol, 3.42 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | p-toluenesulfonic acid monohydrate | 1.87 mmol, 356 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
catalyst | p-toluenesulfonic acid monohydrate | 0.234 mmol, 44.5 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (2-(hydroxymethyl)-1,3-dioxan-2-yl)methyl benzoate | 4.2 g | C(C1=CC=CC=C1)(=O)OCC1(OCCCO1)CO | C13H16O5
